US05972965
To a solution of 1-(4,5-diphenyloxazol-2-yl)methylamino-2,3-dihydro-4-methoxy-1H-indene (0.13 g) in formic acid (5 ml) was added acetic anhydride (1 ml) at 0° C. After being stirred for 5 hours at room temperature, the solvent was evaporated in vacuo. The residue was partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed with water, sat. NaHCO3, and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give 1-[N-formyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-methoxy-1H-indene (0.12 g). MS (m/z): 425 (M+ +1) NMR (CDCl3, δ): 8.52 (0.25H, s), 8.43 (0.75H, s), 7.60-7.40 (4H, m), 7.38-7.24 (6H, m), 7.18-6.95 (1H, m), 6.78-6.55 (2H, m), 6.18 (0.25H, m), 5.28 (0.75H, m), 4.72 (0.75H, d, J=16.2 Hz), 4.51 (0.75H, d, J=16.2 Hz), 4.12 (0.5H, m), 3.79 (2.25H, s), 3.72 (0.75H, s), 3.20-2.94 (1H, m), 2.92-2.66 (1H, m), 2.62-2.38 (1H, m), 2.35-2.05 (1H, m)

reactant | 1-(4,5-diphenyloxazol-2-yl)methylamino-2,3-dihydro-4-methoxy-1H-indene | 0.13 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CNC1CCC2=C(C=CC=C12)OC | C26H24N2O2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | 1-[N-formyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-methoxy-1H-indene | 0.12 g | C(=O)N(CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1CCC2=C(C=CC=C12)OC | C27H24N2O3
